US06888032B2
The general procedure in example 39 was followed. 5-Iodo-m-xylene (144 μL, 1.0 mmol), 2-chlorothiophenol (145 mg, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3,5-dimethylphenyl 2-chlorophenyl sulfide (215 mg, 87% yield) as colorless liquid. Column chromatographic solvent (hexane). Rf=0.5 (hexane/ethyl acetate=50/1). 1H NMR (CDCl3, 300 MHz) δ 7.32-7.36 (m, 1 H), 7.05-7.10 (m, 4 H), 6.97 (s, 1 H), 6.88-6.92 (m, 1 H), 2.30 (s, 6 H). 13C NMR (CDCl3, 75 MHz) δ 139.5, 137.4, 132.7, 131.7, 131.5, 130.6, 129.8, 129.6, 127.3, 126.9, 21.6. IR (neat, cm−1) 3060, 3037, 2950, 2917, 2860. MS (EI) m/z (relative intensity) 250 (30), 248 (100).

reactant | 5-Iodo-m-xylene | 1.0 mmol, 144 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | 2-chlorothiophenol | 1.0 mmol, 145 mg | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3,5-dimethylphenyl 2-chlorophenyl sulfide | 215 mg, 87% yield | ClC1=C(C=CC=C1)SC1=CC(=CC(=C1)C)C | C14H13ClS
